US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-naphthalene-2-yl-methanone
The compound of Example 28 was prepared according to the general preparation protocol A from naphthalene-2-carbonyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | naphthalene-2-carbonyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-naphthalene-2-yl-methanone | OC1(CN(CCC1)C(=O)C1=CC2=CC=CC=C2C=C1)C1=CC(=CC=C1)OC | C23H23NO3
